US07425551B2
c) (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester
Carbonic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester (65 mg, 0.11 mmol) and 2,2,3,3,3-penta-fluoropropylamine (663 mg, 4.3 mmol) were stirred for 24 h at ambient temperature. After evaporation of all volatile components and chromatography on silica (gradient of heptane/ethyl acetate 0 to 80%), the title compound was obtained as white solid (>98%). MS: m/e=606(M+H+).

reactant | Carbonic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester 4-nitro-phenyl ester | 0.11 mmol, 65 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1C2=C(C3=C(N(C1=O)CCOCC1=CC=CC=C1)C=CC=C3)C=CC=C2)=O)=O | C33H29N3O8
reactant | 2,2,3,3,3-penta-fluoropropylamine | 4.3 mmol, 663 mg | FC(CN)(C(F)(F)F)F | C3H4F5N
product | (2,2,3,3,3-Pentafluoro-propyl)-carbamic acid (S)-1-[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl]-ethyl ester | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(=O)[C@H](C)OC(NCC(C(F)(F)F)(F)F)=O)C=CC=C3)C=CC=C2 | C30H28F5N3O5
